US05939439
Step 5: Preparation of 4-Bromomethyl-2-hydroxybenzonitrile
4-Hydroxymethyl-3-hydroxybenzonitrile (0.20 g, 1.34 mmol) was dissolved in DMF (5 mL): CH2Cl2 (5 mL), treated with CBr4 (0.666 g, 2.01 mmol) and Ph3P (0.527 g, 2.01 mmol), and stirred for 1.5 hr at ambient temperature. The reaction mixture was partitioned between EtOAc (100 mL)--H2O (100 mL), the organic layer separated, dried (MgSO4), filtered, and concentrated to give the title compound after chromatography (SiO2, 15% EtOAc in hexane).

reactant | 4-Hydroxymethyl-3-hydroxybenzonitrile | 1.34 mmol, 0.20 g | OCC1=C(C=C(C#N)C=C1)O | C8H7NO2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
reactant | CBr4 | 2.01 mmol, 0.666 g | C(Br)(Br)(Br)Br | CBr4
reactant | Ph3P | 2.01 mmol, 0.527 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-Bromomethyl-2-hydroxybenzonitrile | BrCC1=CC(=C(C#N)C=C1)O | C8H6BrNO
